US08048887B2
2-(4-Fluorophenyl)-5-(5-(1-(hydrazinecarbonyl)cyclopropylcarbamoyl)-2-methylphenyl)-N-methylbenzofuran-3-carboxamide
To tert-butyl 2-(1-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzamido)cyclopropanecarbonyl)hydrazinecarboxylate (33.1 mg, 0.055 mmol) in a round-bottom flask at r.t. under N2 was added HCl (1 ml, 4.00 mmol, 4 M in 1,4-dioxane). The mixture was stirred at r.t. for four hours. The mixture was evaporated, and the crude hydrochloride salt used without further purification. LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=5 ml/min, Column: PHENOMENEX® Luna, 3.0×50 mm, S10; (ES+) m/z (M+H)+=501.06, HPLC Rt=1.483 min.

reactant | tert-butyl 2-(1-(3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzamido)cyclopropanecarbonyl)hydrazinecarboxylate | 0.055 mmol, 33.1 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)NC1(CC1)C(=O)NNC(=O)OC(C)(C)C)C=CC2C | C33H33FN4O6
reactant | HCl | 4.00 mmol, 4 M, 1 ml | Cl | ClH
product | 2-(4-Fluorophenyl)-5-(5-(1-(hydrazinecarbonyl)cyclopropylcarbamoyl)-2-methylphenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C(=O)NN)=O)C | C28H25FN4O4
